US07453010B2
6.2: trans-N-(4-{4-[Benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}benzoyl)-L-phenylalanine
A mixture of 0.35 g of ethyl trans-N-(4-{4-[benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)-amino]cyclohexyl}benzoyl)-L-phenylalaninate (0.42 mmol) and of 1.7 ml of a molar aqueous sodium hydroxide solution in ethanol (9.3 ml) is heated at 45° C. for 3 h. The solvents are subsequently evaporated under reduced pressure and water is added. A molar aqueous hydrochloric acid solution is subsequently added to pH=1. The title product is obtained in the form of a white solid (0.2 g, 59%) after filtration and drying under vacuum [M+H+]=807.

reactant | ethyl trans-N-(4-{4-[benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)-amino]cyclohexyl}benzoyl)-L-phenylalaninate | 0.42 mmol, 0.35 g | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)OCC)C=C1)C[C@@H](COC1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(=O)(=O)C)O | C48H55N3O8S
reactant | sodium hydroxide | 1.7 ml | [OH-].[Na+]
solvent | ethanol | 9.3 ml | C(C)O | C2H6O
product | trans-N-(4-{4-[Benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}benzoyl)-L-phenylalanine | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)C=C1)C[C@@H](COC1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(=O)(=O)C)O | C46H51N3O8S
